US04609669
64 g of potassium carbonate were added to a solution of 41.9 g of 3,5-dichloro-4-hydroxy-benzenethiol in 200 ml of N,N-dimethylformamide under nitrogen atmosphere. To the stirred mixture were dropped at 30° to 40° C. 55 g of 2,2,2-trifluoroethyl-benzenesulfonate. The whole was stirred at 60° to 70° C. for 6 hours, cooled, mixed with 1.5 l of water, and acidified to pH 2 by dropwise addition of hydrochloric acid. A resulted oil was extracted with toluene and the toluene extract was washed with water. The washed toluene extracted was stirred with 160 ml of a 25% aqueous potassium hydroxide solution, and a water layer was separated. Then the separated water layer was acidified to pH 2 by adding hydrochloric acid. A resulted oil was extracted with toluene. The toluene extract was washed with water, dried over anhydrous sodium sulphate, and evaporated to give a residue. The residue was distilled under reduced pressure to give 42.3 g of 2,6 -dichloro-4-(2,2,2-trifluoroethylthio)-phenol which boiled at 85° to 88° C./1 mmHg.

reactant | potassium carbonate | 64 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dichloro-4-hydroxy-benzenethiol | 41.9 g | ClC=1C=C(C=C(C1O)Cl)S | C6H4Cl2OS
reactant | 2,2,2-trifluoroethyl-benzenesulfonate | 55 g | FC(COS(=O)(=O)C1=CC=CC=C1)(F)F | C8H7F3O3S
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 1.5 l | O | H2O
product | 2,6 -dichloro-4-(2,2,2-trifluoroethylthio)-phenol | 42.3 g | ClC1=C(C(=CC(=C1)SCC(F)(F)F)Cl)O | C8H5Cl2F3OS
